US07259262B2
A mixture of 0.1212 g (0.50 mmol) 4-(4-[1,2,3]triazol-1-ylmethyl-oxazol-2-yl)-phenol and 0.10 g (0.30 mmol) cesium carbonate in 10 ml butanone was stirred at 60° C. for 30 min, then 0.152 g (0.50 mmol) 4-chloromethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-thiazole and 0.083 g (0.50 mmol) potassium iodide were added and stirring at 60° C. continued over night. After evaporation, 15 ml water was added and the mixture extracted with two portions of 15 ml ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide and water, dried over sodium sulfate and evaporated to give 201 mg raw material which was recrystallised from ethanol to yield 171 mg (67%) 1-[2-(4-{2-[(E)-2-(4-trifluoromethyl-phenyl)-vinyl]-thiazol-4-ylmethoxy}-phenyl)-oxazol-4-ylmethyl]-1H-[1,2,3]triazole as white crystals melting at 179-181° C.

reactant | 4-(4-[1,2,3]triazol-1-ylmethyl-oxazol-2-yl)-phenol | 0.50 mmol, 0.1212 g | N1(N=NC=C1)CC=1N=C(OC1)C1=CC=C(C=C1)O | C12H10N4O2
reactant | cesium carbonate | 0.30 mmol, 0.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(4-trifluoromethyl-phenyl)-vinyl]-thiazole | 0.50 mmol, 0.152 g | ClCC=1N=C(SC1)C=CC1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NS
reactant | potassium iodide | 0.50 mmol, 0.083 g | [I-].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | 1-[2-(4-{2-[(E)-2-(4-trifluoromethyl-phenyl)-vinyl]-thiazol-4-ylmethoxy}-phenyl)-oxazol-4-ylmethyl]-1H-[1,2,3]triazole | 171 mg, 67% | FC(C1=CC=C(C=C1)/C=C/C=1SC=C(N1)COC1=CC=C(C=C1)C=1OC=C(N1)CN1N=NC=C1)(F)F | C25H18F3N5O2S
